US04948796
A mixture consisting of 7.23 g of 2 -(p-methylphenethyl)nicotinic acid and 94.00 g of polyphosphoric acid was stirred for 1 hour at 140° C. The reaction mixture was poured into 94 ml of concentrated ammonia water with ice-cooling. To the resulting mixture was added carbon tetrachloride, and the organic layer was separated and dried over anhydrous magnesium sulfate. The solvent was removed by distillation under reduced pressure to obtain 5.95 g of brown oily 7-methyl-10,11-dihydro-5H-benzo[4,5]cyclohepta[1,2-b]pyridin-5-one.

reactant | 2 -(p-methylphenethyl)nicotinic acid | 7.23 g | CC1=CC=C(CCC2=C(C(=O)O)C=CC=N2)C=C1 | C15H15NO2
reactant | ammonia water | 94 ml | O.N
solvent | carbon tetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
product | 7-methyl-10,11-dihydro-5H-benzo[4,5]cyclohepta[1,2-b]pyridin-5-one | 5.95 g | CC=1C=CC2=C(C(C=3C(=NC=CC3)CC2)=O)C1 | C15H13NO
